US08703808B2
2) Preparation of (Z)-2-(5-ethoxy-1H-indol-3-yl)-3-pyridin-3-yl acrylonitrile
To a solution of tert-butyl 3-(1-cyano-2-(pyridin-3-yl)vinyl)-5-hydroxy-1H-indole-1-carboxylate (110 mg, 0.30 mmol, 1.0 eq.) and ethyl iodide (32 μL, 0.40 mmol, 1.3 eq.) in DMSO (8 mL) was added potassium carbonate (100 mg, 0.73 mmol, 2.4 eq.). The reaction apparatus was protected from light and the mixture was stirred at room temperature for 24 hours before sodium methanolate (41 mg, 0.75 mmol, 2.5 eq.) was added. The reaction was pursued at room temperature for 1 hour, and then quenched with a saturated aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate and the organic layer was washed with brine, and then dried over MgSO4. The solvent was removed under reduced pressure, and the residue purified by silica gel flash-column chromatography (eluent: heptane/EtOAc, 60:40 to 40:60) to afford, after trituration with diethyl ether, the compound (22) as a yellow powder (60 mg, 69%). mp: 196° C.; IR νmax (cm-1): 2216 (νCN); 1H NMR (DMSO, 300 MHz): δ (ppm): 1.36 (3H, t, J9′-8′=7.0 Hz, 3H9′), 4.10 (2H, q, J8′-9′=7.0 Hz, 2H8′), 6.90 (1H, dd, J6′-7′=8.9 Hz, J6′-4′=2.1 Hz, H6′), 7.40 (1H, d, J7′-6′=8.9 Hz, H7′), 7.48 (1H, d, J4′-6′=2.1 Hz, H4′), 7.54 (1H, dd, J5″-4″=7.9 Hz, J5″-6″=4.7 Hz, H5″), 7.74 (1H, s, H3), 7.78 (1H, s, H2′), 8.32 (1H, d, J4″-5″=8.1 Hz, H4″), 8.58 (1H, dd, J6″-5″=4.8 Hz, J6″-4″=1.6 Hz, H6″), 8.98 (1H, d, J2″-4″=2.3 Hz, H2″), 11.65 (1H, s, indolic H); 13C NMR (DMSO, 75.5 MHz): δ (ppm): 15.3 (C9′), 64.1 (C8′), 103.3 (C4′), 108.7 (C2), 110.6 (C3′), 113.3 (C6′), 113.6 (C7′), 118.6 (C1), 124.1 (C5″), 124.5 (C3a′), 128.1 (C2′), 131.4 (C3″), 132.7 (C3 and C7a′), 135.1 (C4″), 150.0 (C6″), 150.4 (C2″), 154.2 (C5′); ESI-MS: m/z 290.1 ([M+H]+), 312.1 ([M+Na]+); HRESI-MS: m/z 290.1293 (calcd for C18H16N3O, 290.1293).

reactant | tert-butyl 3-(1-cyano-2-(pyridin-3-yl)vinyl)-5-hydroxy-1H-indole-1-carboxylate | 0.30 mmol, 110 mg, 1.0 eq. | C(#N)C(=CC=1C=NC=CC1)C1=CN(C2=CC=C(C=C12)O)C(=O)OC(C)(C)C | C21H19N3O3
reactant | ethyl iodide | 0.40 mmol, 32 μL, 1.3 eq. | C(C)I | C2H5I
reactant | potassium carbonate | 0.73 mmol, 100 mg, 2.4 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | sodium methanolate | 0.75 mmol, 41 mg, 2.5 eq. | C[O-].[Na+]
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | C(C)OCC | C4H10O
product | (Z)-2-(5-ethoxy-1H-indol-3-yl)-3-pyridin-3-yl acrylonitrile | C(C)OC=1C=C2C(=CNC2=CC1)/C(/C#N)=C/C=1C=NC=CC1 | C18H15N3O
